data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,4063,"CC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(C3CCCCC3)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1736,"CC(C1=CC=CC=C1)C(C)[OH+:1][Li-:2][OH].[AlH3]|((2, 1), 1)"
train,pmechdb_split_0,0,569,"CN[CH:1]([NH:2]C)[OH+:3]C.[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8532,"CC#C[C:1]([CH2:2][H:3])=[N+:4](CC)CC.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8923,"N#CC[O:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8332,"C1=CC=C(C[NH2:1])C=C1.O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7452,"CCCCCCCC1C(C)([Si](CC)(CC)CC)C=[N+](C(C)(C)C)[Li-][O:1]1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2405,"CC[SiH](CC)CC.F[B:1](F)F.OC12C3=C(C=CC=C3)C1CCCCCC21OCC[O:2]1|(2, 1)"
train,pmechdb_split_0,0,9817,"C=C[C:1](OC(C)=O)=[O:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1453,"CC(=O)O.CCN(CC)CC.COC1=C([N+](=O)[O-])C=CC(N2CC[C:1](=[O:2])CC2)=C1.OC1CCC[NH:3]C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4408,"CC(C)CC(C)(OP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O:1][H:2])C(=O)C1CCCC2=C(C=CC=C2)C1=O.[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9726,"O=[N+]([O-])C1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8643,"C=CC(=O)O[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3760,"C[S+:1]=[CH:2][O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2815,"C=C[C:1](NCC)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6079,"CCCCC=C[CH:1]=[CH:2][O:3][B-](F)(F)F.CC[O+:4]=[CH:5]C|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,1022,"CC(C)=CCCC(C)=CC=O.CCCCCC1=CC([OH:1])=CC(O)=C1.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7660,"CO[CH:1]([OH+:2]C1=CC=C2C(=C1)C1=C(C)C3=C(C=CN=C3)C(C)=C1N2C)[OH:3].O=S(=O)([O-])O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8689,"CC(=O)[O-:1].CN1CCC(O)([N+:2]2([H:3])CCN(C3=CC=C(C4=CC5=C(C=C4)N(S(=O)(=O)C4=CC=CC=C4)C4=C5C(Cl)=CC=N4)C=C3)CC2)CC1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,10300,"CN[CH+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,696,"C[C:1]([CH:2]([N+](=O)[O-])[H:3])=[O:4].[OH-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,6141,"CCC1=C(O)C=C(C=C(CC(=O)[O-:1])C(=O)OC)C=C1.CO.C[OH+][Na].[Cl-].[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,729,"CC(C)[O-].CC(C)[O][Al-]([O]C(C)C)([O:1][C:2]1([H:3])CCCCC1C)[O+:4]=[C:5](C)C|(1, 2);((2, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7071,"CCOC[CH:1]=[CH:2][NH:3]C.O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,3532,"CC1(C)CCC[CH:1]=[C:2]1C1=CC=CC=C1.[H:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,4094,"CCOC(=O)[N-:1][N:2](C(=O)OCC)[P+:3](C1CCCCC1)(C1CCCCC1)C1CCCCC1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2302,"C[OH+:1][Cl:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,8914,"C=CC1(C)CCC2(C)C(C)CC([O][Zn-]([Cl])[Cl])C1[C+:1]2[CH2:2][Si-:3](C)(C)(C)Cl|((3, 2), 1)"
train,pmechdb_split_0,0,6722,"C[C:1](C)=[NH2+:2]|((1, 2), 2)"
train,pmechdb_split_0,0,3822,"COC(=O)C1C2=C(C=C(OC)C=C2)[C+:1](C2=CC=CC=C2)C1CCC#[N:2].CS(=O)(=O)[O-].O|(2, 1)"
train,pmechdb_split_0,0,6403,"C[Si:1](C)(C)CC[O-:2]|(2, 1)"
train,pmechdb_split_0,0,3241,"CC[N:1](CC)CC.[CH3:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5141,"COC(O)(C1=CC=CC=C1)[OH:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9456,"CC[N:1](CC)CC.ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.N#CC1=CC=CC(OCCCSC2=N[N:2]([H:3])C=N2)=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8338,"CCC(C)CCC=C(C)CC[CH:1]=[C:2](C)C.[CH3][Al-]([CH3])([Cl])[O+:3]=[CH2:4]|((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,1105,"CC(=O)[O-].CC(C)(C)[OH:1].CCN(CC)CC.CC[C:2]([N+]1=CC=C(N(C)C)C=C1)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7897,"CO.COC1=C2OC3C(=[O:1])CCC4C5CC(=C2C34CC[NH+]5C2CCCCC2)C=C1.COC=[O+]C.O=C(O)C1=C(O)C=CC(S(=O)(=O)[O:2][H:3])=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8205,"CC1=CC=C([S:1](=O)(ON=C2C3CC=CCC2CC3)([O-:2])[Cl:3])C=C1.O.[Na+]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,5139,"C[Si-:1](C)(C)(Cl)[Br:2]|((1, 2), 2)"
train,pmechdb_split_0,0,5096,"CC[O-:1].C[CH:2](C#N)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,917,"CC[O-:1].ClC1=C([C:2]([CH2:3][H:4])=[O:5])C=CC=C1|(1, 4);((4, 3), 2);((2, 5), 5)"
train,pmechdb_split_0,0,2031,"CC[N+:1](C)(CC)[CH2:2][CH2:3][H:4].[OH-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,1184,"COC1=CC2=C(C=C1)C(CC(=O)OC(C)C)[N+:1](=[C:2]1CCC[CH:3]1[H:4])CC2.O.O=C(C(F)(F)F)[O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2893,"C[CH:1](C)[Br:2].O=C([O-])C1=CC=CC(C2=CC=CC=C2)=C1[O-:3].[Na+]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2034,"OCC[O:1]C1(O)CCC(C(O)(C2=CC=CC=C2)C2=CC=CC=C2)CC1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8783,"C[N:1](C)C.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
